US07884207B2
A mixture of 4-{[(2-chloro-3-nitroquinolin-4-yl)amino]methyl}-1-methylpiperidin-4-ol (14.05 g), 5% platinum on carbon (1.1 g), acetonitrile (280 mL), and isopropanol (84 mL) was placed under hydrogen pressure on a Parr apparatus overnight. The reaction mixture was filtered through a layer of CELITE filter aid. The filtrate was concentrated under reduced pressure to provide crude 4-{[(3-amino-2-chloroquinolin-4-yl)amino]methyl}-1-methylpiperidin-4-ol. This material was dissolved in 240 mL of acetonitrile.

reactant | 4-{[(2-chloro-3-nitroquinolin-4-yl)amino]methyl}-1-methylpiperidin-4-ol | 14.05 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC1(CCN(CC1)C)O | C16H19ClN4O3
reactant | acetonitrile | 280 mL | C(C)#N | C2H3N
catalyst | platinum on carbon | 1.1 g | [Pt] | Pt
solvent | isopropanol | 84 mL | C(C)(C)O | C3H8O
product | 4-{[(3-amino-2-chloroquinolin-4-yl)amino]methyl}-1-methylpiperidin-4-ol | NC=1C(=NC2=CC=CC=C2C1NCC1(CCN(CC1)C)O)Cl | C16H21ClN4O
